US04695569
To a stirred solution of 10.9 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine in 150 parts of tetrahydrofuran was added dropwise a solution of 6 parts of methyl 2-isothiocyanatobenzoate in 30 parts of tetrahydrofuran at room temperature: slightly exothermic reaction, the temperature rose to 30° C. Upon completion, stirring at room temperature was continued for one hour. The reaction mixture was evaporated. The residue was stirred in trichloromethane. The formed precipitate was filtered off and crystallized from 2-propanone. The product was filtered off and dried, yielding 5.2 parts of 3-[2-[4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl]ethyl]-1,2-dihydro-2-thioxo-4(3H)-quinazolinone; mp. 198.5° C. (compound 131)

reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
reactant | methyl 2-isothiocyanatobenzoate | N(=C=S)C1=C(C(=O)OC)C=CC=C1 | C9H7NO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[2-[4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl]ethyl]-1,2-dihydro-2-thioxo-4(3H)-quinazolinone | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2C(NC1=CC=CC=C1C2=O)=S | C29H29FN6OS
